US04089865
This example illustrates methods of preparing hydrochloride addition salts of the invention. In this example 1 g. of 1-t-butylamino-3-(5-5'-methylhexylaminocarbonylthiazol-2-oxy)-2-propanol is dissolved in 10 ml. of ethyl ether at 20° C. A stream of gaseous anhydrous hydrogen chloride is passed over the surface of the solution until the supernatent liquid becomes colorless. The resulting precipitate is collected by filtration, washed with ethyl ether and then crystallized from methanol, containing 1% water and 1% acetone, affording crystalline 1-t-butylamino-3-(5-5'methylhexylaminocarbonylthiazol-2-oxy)-2-propanol hydrochloride.

reactant | hydrochloride | Cl | ClH
reactant | 1-t-butylamino-3-(5-5'-methylhexylaminocarbonylthiazol-2-oxy)-2-propanol | C(C)(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCCCC(C)C)O | C18H33N3O3S
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-t-butylamino-3-(5-5'methylhexylaminocarbonylthiazol-2-oxy)-2-propanol hydrochloride | Cl.C(C)(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCCCC(C)C)O | InChI=1S/C18H33N3O3S.ClH/c1-13(2)8-6-7-9-19-16(23)15-11-20-17(25-15)24-12-14(22)10-21-18(3,4)5;/h11,13-14,21-22H,6-10,12H2,1-5H3,(H,19,23);1H
